US05455260
To a solution of 6-phenyl-1-hexyl iodide (0.63 g; 2.2 mmol) in THF (12 ml) is added 2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine hydrochloride (0.6 g; 2 mmol) followed by NaH (60% suspension; 0.11 g). The reaction mixture is stirred for 1 hour at room temperature and then heated for 11/2 hours at reflux. The mixture is next cooled, acidified with HCl/EtOH, concentrated and purified by column chromatography using 10% MeOH/CH2Cl2 as eluant. The resultant product is treated with HCl/EtOH and recrystallized from EtOH to give pure N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-6-phenyl-1-hexanamine hydrochloride. (m.p. 163°-165° C.).

reactant | 6-phenyl-1-hexyl iodide | 2.2 mmol, 0.63 g | C1(=CC=CC=C1)CCCCCCI | C12H17I
reactant | 2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine hydrochloride | 2 mmol, 0.6 g | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCN)C=C2
reactant | NaH | 0.11 g | [H-].[Na+]
reactant | HCl EtOH | Cl.CCO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-6-phenyl-1-hexanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCNCCCCCCC1=CC=CC=C1)C=C2 | InChI=1S/C28H32N2O2.ClH/c1(4-10-23-11-5-3-6-12-23)2-9-19-29-20-21-31-22-24-15-17-25(18-16-24)28-30-26-13-7-8-14-27(26)32-28;/h3,5-8,11-18,29H,1-2,4,9-10,19-22H2;1H
